### PR TITLE
Add Erdős Problem 437 (square partial products), link the formal proof

### LINKED ISSUE #6318: Erdős Problem 437
### What is the Erdős problem?

https://www.erdosproblems.com/437

Let $1\leq a_1<\cdots<a_k\leq x$. How many of the partial products $a_1,a_1a_2,\ldots,a_1\cdots a_k$ can be squares? Is it true that, for any $\epsilon>0$, there can be more than $x^{1-\epsilon}$ squares?

Status: proved (follows from Bui–Pratt–Zaharescu [BPZ24], as noted by Tao). A formal proof exists in plby/lean-proofs (`Erdos437.erdos_437`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6318.

### What changed
Adds `FormalConjectures/ErdosProblems/437.lean` with `squarePartialProducts a` (number of square partial products of a finite sequence) and `L x` (its maximum over `1 ≤ a₁ < ⋯ < a_k ≤ x`):
- `erdos_437` (`research solved`, `answer(True)`): for every `ε > 0`, `L x > x^(1-ε)` for all large `x` (Bui–Pratt–Zaharescu [BPZ24] / Tao). Linked to plby/lean-proofs `Erdos437.erdos_437` (Codex and GPT-5.6 Sol; 10 Mathlib-only files, including the PrimeNumberTheoremAnd consequences it relies on).
- Variants (sorry'd, from the literature): `L x = o(x)`, and Tao's quantitative bounds `x exp(-(√2+o(1))u(x)) ≤ L(x) ≤ x exp(-(2^{-1/2}+o(1))u(x))` with `u(x) = (log x log log x)^{1/2}`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos437.erdos_437` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (`L` is an `sSup`; the bridge shows the set of counts is bounded by `x`):

<details>
<summary>Bridge</summary>

```lean
open Filter Real

namespace Bridge437

lemma count_eq (a : List ℕ) :
    Erdos437.squarePartialProducts a = Erdos437Plby.squarePartialProductCount a := rfl

lemma count_le_length (a : List ℕ) : Erdos437.squarePartialProducts a ≤ a.length := by
  unfold Erdos437.squarePartialProducts
  exact (Finset.card_filter_le _ _).trans (by simp)

lemma length_le {x : ℕ} {a : List ℕ} (ha : a.Pairwise (· < ·))
    (hx : ∀ n ∈ a, n ∈ Finset.Icc 1 x) : a.length ≤ x := by
  have hnd : a.Nodup := ha.nodup
  have hsub : a.toFinset ⊆ Finset.Icc 1 x := fun n hn => hx n (List.mem_toFinset.1 hn)
  have := Finset.card_le_card hsub
  rw [List.toFinset_card_of_nodup hnd, Nat.card_Icc] at this
  omega

lemma bddAbove (x : ℕ) : BddAbove {m | ∃ a : List ℕ, a.Pairwise (· < ·) ∧
    (∀ n ∈ a, n ∈ Finset.Icc 1 x) ∧ Erdos437.squarePartialProducts a = m} := by
  refine ⟨x, ?_⟩
  rintro m ⟨a, ha, hx, rfl⟩
  exact (count_le_length a).trans (length_le ha hx)

theorem erdos_437_bridge : type_of% Erdos437.erdos_437 := by
  show True ↔ _
  simp only [true_iff]
  intro ε hε
  filter_upwards [Erdos437Plby.erdos_437 ε hε] with x ⟨a, ⟨ha, hx⟩, hlt⟩
  refine hlt.trans_le ?_
  rw [← count_eq]
  exact_mod_cast le_csSup (bddAbove x) ⟨a, ha, fun n hn => Finset.mem_Icc.2 (hx n hn), rfl⟩

#print axioms Erdos437Plby.erdos_437
#print axioms erdos_437_bridge

end Bridge437
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«437»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/437.lean [hunk 1]
```diff
@@ -0,0 +1,86 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/437.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
